### PR TITLE
Add Erdős Problem 799 (list chromatic number of almost all graphs), link the formal proof

### LINKED ISSUE #6370: Erdős Problem 799
### What is the Erdős problem?

https://www.erdosproblems.com/799

The list chromatic number $\chi_L(G)$ is defined to be the minimal $k$ such that for any assignment of a list of $k$ colours to each vertex of $G$ a colouring of each vertex by a colour on its list can be chosen such that adjacent vertices receive distinct colours. Is it true that $\chi_L(G)=o(n)$ for almost all graphs on $n$ vertices?

Status: proved (Alon [Al92]; Alon–Krivelevich–Sudakov [AKS99]). A formal proof exists in plby/lean-proofs (`Erdos799.erdos_799`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6370.

### What changed
Adds `FormalConjectures/ErdosProblems/799.lean`, reusing `Erdos753.listChromaticNumber`, with `proportion P n` (the fraction of labelled graphs on `n` vertices satisfying `P`):
- `erdos_799` (`research solved`, `answer(True)`): `χ_L(G) = o(n)` for almost all graphs (Alon [Al92]). Linked to plby/lean-proofs `Erdos799.erdos_799` (Codex and GPT-5.6 Sol; 10 Mathlib-only files).
- Sorry'd variants: Alon's `≪ n log log n / log n` and Alon–Krivelevich–Sudakov's `≍ n / log n` almost surely.

### How checked
- Rebuilt plby's closure against this repo's Mathlib (plby's copy of `753.lean` renamed to avoid clashing with this repo's identical definitions): `#print axioms Erdos799.erdos_799` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of renamed copies, same axioms (definitions coincide):

<details>
<summary>Bridge</summary>

```lean
open Filter Asymptotics

namespace Bridge799

lemma listChromaticNumber_eq {V : Type*} (G : SimpleGraph V) :
    Erdos753.listChromaticNumber G = Erdos753Plby.listChromaticNumber G := rfl

lemma proportion_eq (P : ∀ n : ℕ, SimpleGraph (Fin n) → Prop) :
    Erdos799.proportion P = Erdos799Plby.graphDensity P := by
  funext n
  unfold Erdos799.proportion Erdos799Plby.graphDensity
  congr 2

theorem erdos_799_bridge : type_of% Erdos799.erdos_799 := by
  show True ↔ _
  simp only [true_iff, proportion_eq, listChromaticNumber_eq]
  exact Erdos799Plby.erdos_799

#print axioms Erdos799Plby.erdos_799
#print axioms erdos_799_bridge

end Bridge799
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«799»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/799.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
...
+
+open Filter Asymptotics Real Erdos753
+
+namespace Erdos799
+
+open scoped Classical in
+/-- The proportion of (labelled) graphs on `n` vertices satisfying `P`. A property holds for
+*almost all graphs* if this proportion tends to `1`. -/
+noncomputable def proportion (P : ∀ n : ℕ, SimpleGraph (Fin n) → Prop) (n : ℕ) : ℝ :=
+  ((Finset.univ.filter (P n)).card : ℝ) / Fintype.card (SimpleGraph (Fin n))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/799.lean:44]: proportion (almost all graphs) is general; also reuses Erdos753.listChromaticNumber from a problem file
perhaps something for ForMathlib?
